US08492397B2
To a solution of (2S)-1,1,1-trifluoropropan-2-yl [(3S)-1-benzylpyrrolidin-3-yl]carbamate (1.82 g) in THF (20 ml) and MeOH (20 ml) was added 20% palladium hydroxide on activated carbon (200 mg). The resulting solution was placed under a H2 atmosphere (balloon pressure) and stirred at room temperature for 15 hours. The solution was obtained by filtration through Celite and, washing the filter cake with MeOH, was concentrated in vacuo to give (2S)-1,1,1-trifluoropropan-2-yl(3S)-pyrrolidin-3-ylcarbamate as a pale yellow oil.

reactant | (2S)-1,1,1-trifluoropropan-2-yl [(3S)-1-benzylpyrrolidin-3-yl]carbamate | 1.82 g | C(C1=CC=CC=C1)N1C[C@H](CC1)NC(O[C@H](C(F)(F)F)C)=O | C15H19F3N2O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | MeOH | 20 ml | CO | CH4O
catalyst | palladium hydroxide on activated carbon | 200 mg | [OH-].[OH-].[Pd+2]
product | (2S)-1,1,1-trifluoropropan-2-yl(3S)-pyrrolidin-3-ylcarbamate | N1C[C@H](CC1)NC(O[C@H](C(F)(F)F)C)=O | C8H13F3N2O2
